US06921763B2
N2-(4-Bromo-2-fluorophenyl)-5,7-dimethyl-1,3-benzoxazol-2-amine was prepared from 4-bromo-2-fluoroaniline (2.000 g, 10.53 mmol) in a manner similar to that used for the preparation of N2-(4-bromophenyl)-5,7-dimethyl-1,3-benzoxazol-2-amine. The compound was formed as a pink solid (1.916 g, 54%). RP-HPLC Rt 17.96 min, 95% purity (5% to 85% acetonitrile/0.1M aqueous ammonium acetate, buffered to pH 4.5, over 20 min at 1 mL/min; λ=254 nm; Deltapak C18, 300 Å, 5 μm, 150×3.9 mm column); m/z 337 (MH+).

reactant | 4-bromo-2-fluoroaniline | 10.53 mmol, 2.000 g | BrC1=CC(=C(N)C=C1)F | C6H5BrFN
reactant | N2-(4-bromophenyl)-5,7-dimethyl-1,3-benzoxazol-2-amine | BrC1=CC=C(C=C1)NC=1OC2=C(N1)C=C(C=C2C)C | C15H13BrN2O
product | N2-(4-Bromo-2-fluorophenyl)-5,7-dimethyl-1,3-benzoxazol-2-amine | BrC1=CC(=C(C=C1)NC=1OC2=C(N1)C=C(C=C2C)C)F | C15H12BrFN2O
